US06316467B1
4-[(Aminothioxomethyl)-hydrazono]-4-phenylbutanamide
Thiosemicarbazide (1.38 g, 15.1 mmol) was added to a solution of 4-oxo-4-phenyl-butyramide (1.63 g, 9.22 mmol), prepared in the previous step, in 50 ml of methanol plus 2.5 ml of 1 N HCl plus 2.5 ml of water and the reaction stirred at room temperature for 28 hours. The solid formed was collected by filtration and dried to give 1.73 g of a purple solid. Recrystallization of the solid from methanol gave the title compound (1.34 g, 58%) as a purple solid, mp 186-188° C.

reactant | Thiosemicarbazide | 15.1 mmol, 1.38 g | NNC(=S)N | CH5N3S
reactant | 4-oxo-4-phenyl-butyramide | 9.22 mmol, 1.63 g | O=C(CCC(=O)N)C1=CC=CC=C1 | C10H11NO2
reactant | HCl | 1 N, 2.5 ml | Cl | ClH
reactant | water | 2.5 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 4-[(Aminothioxomethyl)-hydrazono]-4-phenylbutanamide | 1.73 g | NC(=S)NN=C(CCC(=O)N)C1=CC=CC=C1 | C11H14N4OS
